* Z:\home\sdanthinne\Documents\307\gateTransistorModels\mult_test.asc
Vdd N001 0 5
XX2 N001 a b c cout s s_full_adder
XX1 N001 B[0] B[1] B[2] B[3] A[0] A[1] A[2] A[3] s[0] s[1] s[2] s[3] s[4] s[5] s[6] s[7] s_4bit_mult

* block symbol definitions
.subckt s_full_adder Vdd A B cin cout s
XX6 Vdd N001 A B s_xor
XX1 Vdd s N001 cin s_xor
XX2 Vdd cin N001 N002 s_and
XX3 Vdd B A N003 s_and
XX4 Vdd cout N002 N003 s_xor
.ends s_full_adder

.subckt s_4bit_mult Vdd A[0] A[1] A[2] A[3] B[0] B[1] B[2] B[3] s[0] s[1] s[2] s[3] s[4] s[5] s[6] s[7]
XX1 Vdd B[0] A[3] N004 s_and
XX2 Vdd B[0] A[2] N007 s_and
XX3 Vdd B[0] A[1] N010 s_and
XX4 Vdd B[0] A[0] s[0] s_and
XX5 Vdd B[1] A[0] N009 s_and
XX6 Vdd B[1] A[1] N006 s_and
XX7 Vdd B[1] A[2] N003 s_and
XX8 Vdd B[1] A[3] N001 s_and
XX9 Vdd N009 N010 0 N008 s[1] s_full_adder
XX10 Vdd N006 N007 N008 N005 N014 s_full_adder
XX11 Vdd N003 N004 N005 N002 N013 s_full_adder
XX12 Vdd N001 0 N002 N011 N012 s_full_adder
XX13 Vdd B[2] A[0] N021 s_and
XX14 Vdd B[2] A[1] N019 s_and
XX15 Vdd B[2] A[2] N017 s_and
XX16 Vdd B[2] A[3] N015 s_and
XX17 Vdd N021 N014 0 N020 s[2] s_full_adder
XX18 Vdd N019 N013 N020 N018 N025 s_full_adder
XX19 Vdd N017 N012 N018 N016 N024 s_full_adder
XX20 Vdd N015 N011 N016 N022 N023 s_full_adder
XX21 Vdd B[3] A[0] N032 s_and
XX22 Vdd B[3] A[1] N030 s_and
XX23 Vdd B[3] A[2] N028 s_and
XX24 Vdd B[3] A[3] N026 s_and
XX25 Vdd N030 N024 N031 N029 s[4] s_full_adder
XX26 Vdd N032 N025 0 N031 s[3] s_full_adder
XX27 Vdd N028 N023 N029 N027 s[5] s_full_adder
XX28 Vdd N026 N022 N027 s[7] s[6] s_full_adder
.ends s_4bit_mult

.subckt s_xor Vdd Vout A B
M1 N003 A Vdd Vdd CMOSP_0.5
M2 N004 B Vdd Vdd CMOSP_0.5
M3 Vout N002 N003 N003 CMOSP_0.5
M4 Vout N001 N004 N004 CMOSP_0.5
M5 Vout A N005 N005 CMOSN_0.5
M6 Vout N001 N006 N006 CMOSN_0.5
M7 N005 B 0 0 CMOSN_0.5
M8 N006 N002 0 0 CMOSN_0.5
XX1 A N001 Vdd s_inv
XX2 B N002 Vdd s_inv
.ends s_xor

.subckt s_and Vdd A B Vout
M1 N001 B N002 N002 CMOSN_0.5
M2 N002 A 0 0 CMOSN_0.5
M3 N001 B Vdd Vdd CMOSP_0.5
M4 N001 A Vdd Vdd CMOSP_0.5
XX1 N001 Vout Vdd s_inv
.ends s_and

.subckt s_inv vin vout vdd
M1 vout vin vdd vdd PMOS
M2 vout vin 0 0 NMOS
.ends s_inv

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\sdanthinne\My Documents\LTspiceXVII\lib\cmp\standard.mos
.lib DetailedModel.mod
.inc fourSource.txt
.tran 256u
Va_ha a 0 PULSE(0 5 0 100p 100p 4u  8u 8)
Vb_ha b 0 PULSE(0 5 0 100p 100p 8u  16u 8)
Vc_ha c 0 PULSE(0 5 0 100p 100p 2u  4u 8)
.backanno
.end
